US05952515
The symmetrical diarylethers, such as diphenylether (m=n=0) and dibenzylether (m=n=-1) can be obtained from Aldrich under the numbers 42730 and 33630, employed for the synthesis of the invented photochromic substance having a diaryl-2H-naphtopyran structure. The representation of the diphenethylether (m=n=2) occurs according to the information in Jain et al., J. Ind. Chem. Soc. 28(1951), 49; of bis-(3-phenylpropyl)-ether (m=n=3) can be produced according to directions in A. Morton et al., J.A.C.S. 63 (1941) 326.

reactant | diphenylether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | dibenzylether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
reactant | diphenethylether | C(CC1=CC=CC=C1)OCCC1=CC=CC=C1 | C16H18O
product | bis-(3-phenylpropyl)-ether | C1(=CC=CC=C1)CCCOCCCC1=CC=CC=C1 | C18H22O
